US06172085B2
Ethyl 4-[(Diphenylmethyl)amino]-1-piperidinecarboxylate
In a reactor fitted with a water trap, a solution of 1,1-diphenylmethylamine (5.0 g) and 1-ethoxycarbonyl-4-piperidone (4.7 g) in toluene (70 mL) was refluxed for 4 hours. This reaction mixture was concentrated under reduced pressure and he residue was dissolved in 50 mL of ethanol. After the solution was cooled with ice, 2.1 g of sodium cyanoborohydride and a small amount of bromocresol green were added. Then, 4N-HCl solution in methanol was added dropwise until the reaction mixture had turned yellow and the mixture was further stirred for 20 minutes. This reaction mixture was poured into an access of aqueous sodium hydrogen carbonate and extracted with ethyl acetate. The extract was washed with saturated aqueous NaCl, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=5:1 to 65:35) to provide 8.4 g of the title compound. Yield 91%.

reactant | 1,1-diphenylmethylamine | 5.0 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)N | C13H13N
reactant | 1-ethoxycarbonyl-4-piperidone | 4.7 g | C(C)OC(=O)N1CCC(CC1)=O | C8H13NO3
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 4-[(Diphenylmethyl)amino]-1-piperidinecarboxylate | 8.4 g, Yield 91% | C1(=CC=CC=C1)C(C1=CC=CC=C1)NC1CCN(CC1)C(=O)OCC | C21H26N2O2
